US07601856B2
Following the procedure of Example 40, 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), ethylene glycol (0.031 mL, 0.56 mmol), and potassium tert-butoxide (0.10 g, 0.90 mmol) in dimethylformamide (5 m L) provided 2-(2-hydroxyethoxy)-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.016 g) after reverse-phase HPLC purification. MS (ESI) m/z 304 ([M+H]+); MS (ESI) m/z 302 ([M−H]−).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | ethylene glycol | 0.56 mmol, 0.031 mL | C(CO)O | C2H6O2
reactant | potassium tert-butoxide | 0.90 mmol, 0.10 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2-hydroxyethoxy)-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.016 g | OCCOCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C17H21NO4
